Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
rectal bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ who is deaf who underwent colonoscopy last week on ___ 
during which endoscopic mucosal resection (EMR) and polypectomy 
was performed on a single sessile 1.5cm non bleeding polyp in 
the cecum with placement of 4 clips at site of mucosal defect 
following polypectomy.  The patient returned home and developed 
rectal bleeding yesterday with four bloody stools.  He presented 
to ED where he was hemodynamically stable and not anemic.  GI 
was consulted and recommended for admission with colonoscopy 
planned tomorrow.

The patient reports no other health changes and 10pt ROS 
negative except for mild LLQ discomfort.  He denies fever or 
cough.  He has mild LLQ discomfort that is not severe and does 
not radiate and started post procedure.  

On arrival to the floor he had a bloody bowel movement that was 
dark maroon without fresh blood.  

A single sessile 1.5 cm non-bleeding polyp was found in the 
cecum. A previously inked tattoo was found in proximity to the 
cecal polyp.  ___ mucosal resection was performed. The 
polyp was raised by submucosal injection with saline and 
methylene blue to create a saline pillow. An endoscopic mucosal 
resection (EMR) was performed and the polyp was completely 
removed in piecemeal fashion using a hot snare. The mucosal 
defect at the EMR site was closed with placement of 4 clips.

•Diverticulosis of the descending colon 
•Internal & external hemorrhoids 
•Otherwise normal colonoscopy to cecum

 
Past Medical History:
psoriasis on humira

s/p polypectomy on ___
 
Social History:
___
Family History:
not pertinent to management of current condition
 
Physical Exam:
ADMISSION PHYSICAL EXAM
98 118/70 59 16 ___ppearing deaf male, communicated by writing on pad with 
patient as ASL interpreter not available
heent unremarkable
clear breath sounds without focal crackles
regular s1 and s2 without murmurs
soft llq discomfort, no rebound or guarding
no suprapubic discomfort
no peripheral edema
psoriasis on back of elbows
moves all extremities equally
calm and aox3

DISCHARGE PHYSICAL EXAM
PHYSICAL EXAM:  
Vitals:T 97.5 BP 119 / 70 HR 58 RR 18 O2 sat 96 RA  
Gen: NAD, resting
Eyes: EOMI, no scleral icterus
HENT: NCAT, trachea midline, B hearing loss
CV: RRR, S1-S2, no m/r/r/g, no edema, 2+ ___ BLE
Lungs: CTA B, no w/r/r/c
GI: +BS, soft, NTTP, ND
GU: No foley
MSK: ___ strength bilaterally, intact ROM
Neuro: Moving all extremities, no focal deficits, A+Ox3
Skin: No rash or ecchymosis
Psych: Congruent affect, good judgment
 
Pertinent Results:
___ 02:19PM BLOOD WBC-10.8* RBC-4.73 Hgb-14.2 Hct-41.6 
MCV-88 MCH-30.0 MCHC-34.1 RDW-12.9 RDWSD-41.6 Plt ___
___ 02:19PM BLOOD Glucose-158* UreaN-13 Creat-0.8 Na-138 
K-3.7 Cl-102 HCO3-23 AnGap-17
___ 02:19PM BLOOD ___ PTT-26.5 ___

A single sessile 1.5 cm non-bleeding polyp was found in the 
cecum. A previously inked tattoo was found in proximity to the 
cecal polyp.  ___ mucosal resection was performed. The 
polyp was raised by submucosal injection with saline and 
methylene blue to create a saline pillow. An endoscopic mucosal 
resection (EMR) was performed and the polyp was completely 
removed in piecemeal fashion using a hot snare. The mucosal 
defect at the EMR site was closed with placement of 4 clips.
•Diverticulosis of the descending colon 
•Internal & external hemorrhoids 
•Otherwise normal colonoscopy to cecum
 

Recommendations: •Clear liquid diet when awake, then advance 
diet as tolerated. 
•Follow up with Dr. ___ as previously scheduled. 
•Follow up with pathology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results. 
•Repeat colonoscopy with Dr ___ in 6 months to assess EMR 
site. 
•There is up to 10% bleeding risk after endoscopic mucosal 
resection. If you experience black stools, blood in the stool, 
or any other evidence of blood passage, please call Dr. ___ 
___ go to the nearest emegency room 
•NO ASPIRIN, PLAVIX, COUMADIN, NSAIDs (eg Advil, Motrin, Aleve) 
for 7 days 
•If any fever, worsening abdominal pain, or post procedure 
symptoms, please call the advanced endoscopy fellow on call 
___/ pager ___.
 
DISCHARGE LABS:
___ 06:45AM BLOOD WBC-10.8* RBC-5.32 Hgb-15.4 Hct-47.4 
MCV-89 MCH-28.9 MCHC-32.5 RDW-13.0 RDWSD-42.2 Plt ___
___ 06:50AM BLOOD WBC-12.0* RBC-5.03 Hgb-14.5 Hct-43.4 
MCV-86 MCH-28.8 MCHC-33.4 RDW-12.8 RDWSD-39.9 Plt ___
___ 02:19PM BLOOD Neuts-62.3 ___ Monos-5.7 Eos-3.5 
Baso-0.6 Im ___ AbsNeut-6.72* AbsLymp-2.96 AbsMono-0.61 
AbsEos-0.38 AbsBaso-0.07
___ 06:50AM BLOOD Glucose-86 UreaN-15 Creat-1.1 Na-139 
K-4.5 Cl-102 HCO3-27 AnGap-___ with post-polypectomy GI bleeding after endoscopic mucosal 
resection (EMR) polypectomy of 1.5cm sessile polyp performed 3d 
prior to admission. 

#  Hematochezia
#  Recent polypectomy, cecum- Pt remained hemodynamically stable 
with a stable H/H (improved actually from prior to colonoscopy). 
Pt without e/o hematochezia x 24 hours prior to discharge. 
Ambulating on own. GI initially consulted with plan for 
colonoscopy however H/H stabilized so no indication.
- Will d/c with f/u with GI
- Return to ED if continued hematochezia, melena
- D/C H/H  
- AVOID ASA/NSAIDS x 7days post discharge

# B Hearing loss - communicated with paper for patient, 
interpreter not available until late afternoon.

# Discharge to home, no services
# Code Full Code

<30 minutes was spent on this discharge summary.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. adalimumab unknown mg subcutaneous EVERY 2 WEEKS 

 
Discharge Medications:
1.  adalimumab unknown  subcutaneous EVERY 2 WEEKS (WE) 
take on routine schedule, do not change day of week that you 
usually use  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# post polypectomy rectal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you were hospitalized for rectal bleeding after undergoing 
colonoscopy w removal of large polyp last week w placement of 
endoclips.  your blood counts remained stable and you were 
monitored for further bleeding.

Please return to the emergency department of call your doctor if 
you have continuous bleeding in your stools. This may present as 
bright red or with dark, tarry like stools. 
 
Followup Instructions:
___